US04837403
15 ml of ethanol saturated with potassium carbonate, 18 g of paraformaldehyde, 1.43 g of potassium carbonate and 51 g of acetonecyanohydrin were stirred at 25° C. for 2 h and then brought to pH 6 with 85% strength phosphoric acid. 75 ml of ethanol and 88 g of N-[2,2,6,6-tetramethyl-4-piperidinyl]pelargonamide were added, and the mixture was refluxed for 6.5 h. The reaction mixture was filtered, the filtrate was concentrated and the residue was recrystallized from n-heptane to give 82 g of N-[1-cyanomethyl-2,2,6,6-tetramethyl-4-piperidinyl]pelargonamide having a melting point of 68° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | paraformaldehyde | 18 g | C=O | CH2O
reactant | acetonecyanohydrin | 51 g | CC(C)(C#N)O | C4H7NO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | N-[2,2,6,6-tetramethyl-4-piperidinyl]pelargonamide | 88 g | CC1(NC(CC(C1)NC(CCCCCCCC)=O)(C)C)C | C18H36N2O
catalyst | potassium carbonate | 1.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-[1-cyanomethyl-2,2,6,6-tetramethyl-4-piperidinyl]pelargonamide | 82 g | C(#N)CN1C(CC(CC1(C)C)NC(CCCCCCCC)=O)(C)C | C20H37N3O
